US20010021741A1
Phthalic anhydride.
hexahydrophthalic anhydride type polyester resin, having a number-average molecular weight of about 3,500, a hydroxyl value of 82 mg KOH/g and an acid value of 8 mg KOH/g.

reactant | hexahydrophthalic anhydride | C1(C2C(C(=O)O1)CCCC2)=O | C8H10O3
reactant | KOH | 82 mg | [OH-].[K+]
reactant | KOH | 8 mg | [OH-].[K+]
product | Phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
